US08383932B2
Synthesis of 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-5-phenyl-1,3,4-oxadiazole
5 g (16.6 mmol) of 2-(4-bromophenyl)-5-phenyl-1,3,4-oxadiazole, 5.1 g (19.9 mmol) of bis(pinacolato)diboron, 0.41 g (3 mol %) of a complex of [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium (II) with dichloromethane, and 4.9 g (49.8 mmol) of potassium acetate were dissolved in 100 ml of dimethylformamide (DMF). The solution was reacted at 80° C. for 12 hours. The reactant was extracted with ethyl acetate. The extract was treated under reduced pressure to remove the solvent and separated through a column, obtaining 3.1 g (Y=53%) of a light yellow solid.

reactant | 2-(4-bromophenyl)-5-phenyl-1,3,4-oxadiazole | 16.6 mmol, 5 g | BrC1=CC=C(C=C1)C=1OC(=NN1)C1=CC=CC=C1 | C14H9BrN2O
reactant | bis(pinacolato)diboron | 19.9 mmol, 5.1 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | potassium acetate | 49.8 mmol, 4.9 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium (II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-5-phenyl-1,3,4-oxadiazole | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1OC(=NN1)C1=CC=CC=C1)C | C20H21BN2O3
